US05173554
A 20.0 g quantity of methyl β-D-galactoside (product of Nacalai Co., Ltd., a guaranteed reagent)was suspended in 150 ml of 2-hydroxyethyl acrylate. To the suspension were added 1.0 g of butylhydroxytoluene and 1.0 g of phosphomolybdic acid, and the mixture was stirred well and gradually heated. After heating to a temperature of 60° to 70° C., the mixture was further stirred for about 2 hours while maintaining the same temperature, and was neutralized with 2N sodium hydroxide. The obtained reaction mixture was purified in the same manner as in Example 1. A fraction (Rf =0.2) of the reaction mixture was concentrated, giving 15.8 g of galactosyloxyethylacrylate (HEA-Gal) as an oily product (yield 55%).

reactant | methyl β-D-galactoside | CO[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C7H14O6
reactant | butylhydroxytoluene | 1.0 g | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 2-hydroxyethyl acrylate | 150 ml | C(C=C)(=O)OCCO | C5H8O3
catalyst | phosphomolybdic acid | 1.0 g | OP(=O)O.O[Mo](=O)(=O)O
product | galactosyloxyethylacrylate | 15.8 g | C1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OCCOC(C=C)=O | C11H18O8
